US08124617B2
6-amino-5-nitronicotinic acid
A mixture of concentrated sulfuric acid (7.5 ml) and concentrated nitric acid (7.5 ml) was added dropwise to a solution of 6-aminonicotinic acid (15 g) in concentrated sulfuric acid (30 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 3 hrs and poured into ice water, and the mixture was stirred for 30 min. The precipitated crystals were collected by filtration and washed with water. The obtained crystals were suspended in concentrated sulfuric acid (60 ml), and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was adjusted with sodium hydroxide to pH 4, and the precipitated crystals were collected by filtration to give the title compound (7.26 g, yield 36%) as pale-as yellow crystals. purity 94%. M+H: 184.

reactant | nitric acid | 7.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 6-aminonicotinic acid | 15 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
product | 6-amino-5-nitronicotinic acid | 7.26 g, yield 36% | NC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H5N3O4
